US05380700
Synthesis of 4-(4-chlorophenyl)-2-(4,6-dimethoxypyrimidin-2-ylthio)nicotinic acid (Compound No. 9)
16.8 g (0,040 mol) of methyl 4-(4-chlorophenyl)-2-(4,6-dimethoxypyrimidin-2-ylthio)nicotinate was dissolved in 150 ml of dimethylsulfoxide, and 35 ml (0,070 mol) of 2N sodium hydroxide added with stirring at 60° C. After stirring at 60° C. for 30 minutes, the mixture was poured into water, and washed twice with ethyl acetate. The aqueous layer was acidified with 10% hydrochloric acid, and extracted with 500 ml of ethyl acetate. The extract was washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and concentrated. The concentrate was washed with methanol and isopropyl ether to obtain 11.5 g of a white crystal of the aimed product.

reactant | methyl 4-(4-chlorophenyl)-2-(4,6-dimethoxypyrimidin-2-ylthio)nicotinate | 0,040 mol, 16.8 g | ClC1=CC=C(C=C1)C1=CC=NC(=C1C(=O)OC)SC1=NC(=CC(=N1)OC)OC | C19H16ClN3O4S
reactant | sodium hydroxide | 0,070 mol, 2N, 35 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 4-(4-chlorophenyl)-2-(4,6-dimethoxypyrimidin-2-ylthio)nicotinic acid | 11.5 g, Yield: 70.8% | ClC1=CC=C(C=C1)C1=CC=NC(=C1C(=O)O)SC1=NC(=CC(=N1)OC)OC | C18H14ClN3O4S
